US04159330
The yield is 5 g of 6-carboxy-2-(2'-ethoxy-3'-methoxy-phenyl)-4H-3,1-benzoxazin-4-one (m.p.=175°-177° C.), which are reacted at room temperature first with 70 ml of 32% ammonium hydroxide for 4 hours and then with 20 ml of 2N NaOH overnight. After acidification with 4N HCl, the precipitate is filtered off and crystallized from ethanol to give 6-carboxy-2-(2'-ethoxy-3'-methoxy-phenyl)-3,4-dihydro-4-oxo-quinazoline (3 g; m.p. 228°-229° C.).

reactant | 6-carboxy-2-(2'-ethoxy-3'-methoxy-phenyl)-4H-3,1-benzoxazin-4-one | yield is 5 g | C(=O)(O)C=1C=CC2=C(C(OC(=N2)C2=C(C(=CC=C2)OC)OCC)=O)C1 | C18H15NO6
reactant | ammonium hydroxide | 70 ml | [OH-].[NH4+]
solvent | NaOH | 2N, 20 ml | [OH-].[Na+]
product | 6-carboxy-2-(2'-ethoxy-3'-methoxy-phenyl)-3,4-dihydro-4-oxo-quinazoline | 3 g | C(=O)(O)C=1C=C2C(NC(=NC2=CC1)C1=C(C(=CC=C1)OC)OCC)=O | C18H16N2O5
